Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
laparoscopic appendectomy

 
History of Present Illness:
HPI: ___ with h/o DMII presents c/o epigastric pain x 1.5 days. 

He was did not have any N/V but attempted to induce vomiting to
make himself feel better.  The pain was cramping and located in
the upper abdomen.  He had no fevers or chills.  the pain was
persistent so he presented to the ER for evaluation.  He was
initially worked up along an ACS pathway but EKG was stable and
cardiac enzymes normal x2.  His pain then migrated to the RLQ 
and
he subsequently had a CT Scan performed which demonstrated acute
appendicitis.

 
Past Medical History:
 DMII, depression

 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical Exam: upon admission:  ___:

Vitals: 98.7 62 113/76 18 98% 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: soft and slightly distended.  Extremely TTP at McBurney's
point, + Rovsing sign.  +Rebound tenderness with voluntary
guarding.
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 01:50PM BLOOD WBC-11.0 RBC-4.50* Hgb-13.5* Hct-40.3 
MCV-90 MCH-29.9 MCHC-33.4 RDW-12.6 Plt ___
___ 05:00AM BLOOD WBC-10.9 RBC-4.36* Hgb-12.8* Hct-39.0* 
MCV-89 MCH-29.5 MCHC-33.0 RDW-12.4 Plt ___
___ 01:50PM BLOOD Neuts-80.5* Lymphs-13.7* Monos-5.0 
Eos-0.6 Baso-0.3
___ 05:00AM BLOOD Neuts-87.6* Lymphs-8.6* Monos-3.1 Eos-0.5 
Baso-0.2
___ 01:50PM BLOOD Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-186* UreaN-9 Creat-0.7 Na-138 
K-4.4 Cl-99 HCO3-28 AnGap-15
___ 05:00AM BLOOD ALT-17 AST-17 LD(LDH)-118 AlkPhos-60 
TotBili-0.6

___:  chest x-ray:

IMPRESSION: No acute cardiothoracic process

___:  cat scan of abdomen and pelvis:

IMPRESSION: Uncomplicated acute appendicitis.
 
Brief Hospital Course:
___ year old gentleman admitted to the acute care service with 
upper abdominal pain.  Upon admission, he was made NPO, given 
intravenous fluids, and underwent radiographic imaging. He 
underwent serial abdominal examinations.  Because of his family 
history of cardiac disease, an EKG and cardiac enzymes were 
sent.  The EKG and 2 sets of cardiac enzymes were normal. A cat 
scan  of the abdomen showed an  increase in the diameter of the 
appendix with the presence of an appendicolith.

On HD # 1 he was taken to the operating room for a laparoscopic 
appendectomy.  His opertative course was stable.  He was 
extubated in the operating room and monitored in the recovery 
room.

His post-operative course has been stable.  He is afebrile and 
his vital signs are stble.  He was introduced to a regular diet. 
 His incisional pain is controlled with oral analgesia.  His 
hematocrit and white blood cell count are normal.

He is preparing for discharge home with follow-up in 2 weeks 
with the acute care service.  
 

 
Medications on Admission:
 metformin, celexa, lorazepam 
 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): hold for loose stools.  
3. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain: may cause drowsiness, avoid driving while on 
this medicaiton.
Disp:*40 Tablet(s)* Refills:*0*
5. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
6. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
7. metformin 1,000 mg Tablet Sig: One (1) Tablet PO at bedtime: 
HOLD FOR 48 HOURS, then resume.  
8. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO three times a 
day: as needed for anxiety.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
*DO NOT RESUME YOUR METFORMIN FOR 48 HOURS DUE TO THE CONTRAST 
DYE THAT YOU RECEIVED FOR THE CAT SCAN*

You were admitted to the hospital with upper abdominal pain. 
Because of your family history of cardiac disease, you underwent 
specific blood work for your heart which was normal and your EKG 
was normal.   A cat scan of your abdomen did show acute 
appendicitis.  You were taken to the operating room where you 
had your appendix removed.  Your vital signs are stable and you 
are preparing for discharge home with the following 
instructions:

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___